US05516774
4,10-Dihydro-4-(4-aminobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e][1,4]diazepine
To a mixture of 5 mmol of 4,10-dihydro-4-(4-nitrobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e][1,4]diazepine in 25 ml of ethyl alcohol is added 0.3 g of 10% Pd/C and 15 mmol of hydrazine followed by stirring and heating under reflux for 3 hours. The cooled reaction mixture is filtered through diatomaceous earth. The filtrate is concentrated in vacuo to a residue which is dissolved in methylene chloride and passed through a pad of hydrous magnesium silicate. The filtrate is concentrated in vacuo to give the desired product which is purified by flash chromatography on silica gel to give the desired product as a solid.

reactant | 4,10-dihydro-4-(4-nitrobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e][1,4]diazepine | 5 mmol | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CS4)C=CC3)C=C1 | C17H13N3O3S
reactant | hydrazine | 15 mmol | NN | H4N2
solvent | ethyl alcohol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 4,10-Dihydro-4-(4-aminobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e][1,4]diazepine | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CS4)C=CC3)C=C1 | C17H15N3OS
